US08877780B2
A stirred mixture of 6-ethoxy-pyridazine-3-carboxylic acid (0.50 g, 3.00 mmol) and CDI (0.54 g, 3.30 mmol) in N,N-dimethylformamide (20 mL) was heated to 40° C. under nitrogen. After 1 h, 5-aminomethyl-2-(2,6-dioxo-piperidin-3-yl)-isoindole-1,3-dione methane sulfonate (1.15 g, 3.00 mmol) was added and the mixture was heated at 40° C. for 1.5 h. The mixture was cooled to rt and water (40 mL) was added. After 1 h, the product was isolated by filtration, washed with water (10 mL) and dried in vacuo to give 6-ethoxy-pyridazine-3-carboxylic acid [2-(2,6-dioxo-piperidin-3-yl)-1,3-dioxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-amide as a white solid (1.15 g, 88% yield): HPLC: Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, 30/70 CH3CN/0.1% H3PO4, 6.89 min (98.61%); mp: 238-240° C.; 1H NMR (DMSO-d6) δ 1.42 (t, J=7.1 Hz, 3H, CH3), 1.96-2.14 (m, 1H, CHH), 2.42-2.69 (m, 2H, CHH, CHH), 2.78-3.01 (m, 1H, CHH), 4.58 (q, J=7.0 Hz, 2H, CH2), 4.68 (d, J=6.2 Hz, 2H, CH2), 5.14 (dd, J=5.4, 12.9 Hz, 1H, CH), 7.35 (d, J=9.1 Hz, 1H, Ar), 7.76-7.95 (m, 3H, Ar), 8.09 (d, J=9.1 Hz, 1H, Ar), 9.85 (t, J=6.2 Hz, 1H, NH), 11.12 (s, 1H, NH); 13C NMR (DMSO-d6) δ 14.28, 21.99, 30.93, 42.39, 48.99, 63.47, 117.91, 122.10, 123.53, 128.83, 129.82, 131.59, 133.57, 147.30, 149.11, 162.93, 165.86, 166.99, 167.13, 169.83, 172.75; LCMS: MH=438; Anal Calcd for C21H19N5O6: C, 57.66; H, 4.38; N, 16.01. Found: C, 57.32; H, 4.16; N, 15.80.

reactant | 6-ethoxy-pyridazine-3-carboxylic acid | 3.00 mmol, 0.50 g | C(C)OC1=CC=C(N=N1)C(=O)O | C7H8N2O3
reactant | CDI | 3.30 mmol, 0.54 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 5-aminomethyl-2-(2,6-dioxo-piperidin-3-yl)-isoindole-1,3-dione methane sulfonate | 3.00 mmol, 1.15 g | CS(=O)(=O)O.NCC=1C=C2C(N(C(C2=CC1)=O)C1C(NC(CC1)=O)=O)=O
reactant | water | 40 mL | O | H2O
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 6-ethoxy-pyridazine-3-carboxylic acid [2-(2,6-dioxo-piperidin-3-yl)-1,3-dioxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-amide | 1.15 g, 88% yield | O=C1NC(CCC1N1C(C2=CC=C(C=C2C1=O)CNC(=O)C=1N=NC(=CC1)OCC)=O)=O | C21H19N5O6
